US06566377B2
N-[2-(4-Acetyl-phenyl)-ethyl]-acetamide
In a 500 ml flame-dried flask, N-phenethyl-acetamide (6.53 g, 40.0 mmol) was dissolved in methylene chloride (65 ml), and acetyl chloride (7.22 g, 92.0 mmol) was added in one portion. The resulting solution was cooled to about 0° C., and aluminum chloride (18.1 g, 136 mmol) was added in portions over about thirty minutes. The solution was stirred for about five minutes at about 0° C., and the ice bath was then removed and the mixture was heated to reflux for about thirty minutes. After cooling to room temperature, the reaction mixture was poured over ice water, stirred for about ten minutes, and then extracted with methylene chloride (2×100 ml). The combined organic extracts were then washed sequentially with water and brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting white solid (7.52 g, 92% yield) was ascertained to be about 90% pure by NMR, and was employed directly without further purification. LRMS ([M+H]+)=206.2.

reactant | N-phenethyl-acetamide | 40.0 mmol, 6.53 g | C(CC1=CC=CC=C1)NC(C)=O | C10H13NO
reactant | acetyl chloride | 92.0 mmol, 7.22 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 136 mmol, 18.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 65 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(4-Acetyl-phenyl)-ethyl]-acetamide | 7.52 g, 92% yield | C(C)(=O)C1=CC=C(C=C1)CCNC(C)=O | C12H15NO2
